US07074801B1
6-Bromo-4-[4-(2-pyridyl)piperazin-1-yl]quinoline
291 mg 6-bromo-4-chloroquinoline and 0.91 mL 4-(2-pyridyl)piperazine were reacted by the same method as in Production Example 74 to give 373 mg of the title compound as a colorless oil.

reactant | 6-bromo-4-chloroquinoline | 291 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | 4-(2-pyridyl)piperazine | 0.91 mL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 6-Bromo-4-[4-(2-pyridyl)piperazin-1-yl]quinoline | 373 mg | BrC=1C=C2C(=CC=NC2=CC1)N1CCN(CC1)C1=NC=CC=C1 | C18H17BrN4
